US07037925B2
4-(2-Ethylanilino)-7-(3-hydroxypropoxy)-6-methoxy-3-quinolinecarboxamide
A mixture of 4-(2-ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide (0.12 g, 0.35 mmol), DMSO (15 ml), Cs2CO3 (0.34 g, 1.0 mmol), and 1,3-dibromopropane was stirred at 100° C. for 2 h. The reaction mixture was poured out on NaHCO3 (aq) and extracted with CH2Cl2. The substance was chromatographed on furnishing the title compound (0.012 g, 9%).

reactant | 4-(2-ethylanilino)-7-hydroxy-6-methoxy-3-quinolinecarboxamide | 0.35 mmol, 0.12 g | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)O)C(=O)N)C=CC=C1 | C19H19N3O3
reactant | Cs2CO3 | 1.0 mmol, 0.34 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 4-(2-Ethylanilino)-7-(3-hydroxypropoxy)-6-methoxy-3-quinolinecarboxamide | 0.012 g, 9% | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OCCCO)C(=O)N)C=CC=C1 | C22H25N3O4
